US06727264B1
[(5-CHLOROPENTYL)SULFANYL]BENZENE:
Prepared by Procedure R and Scheme Z using benzenethiol and 1-bromo-5-chloropentane.

reactant | benzenethiol | C1(=CC=CC=C1)S | C6H6S
reactant | 1-bromo-5-chloropentane | BrCCCCCCl | C5H10BrCl
product | [(5-CHLOROPENTYL)SULFANYL]BENZENE | ClCCCCCSC1=CC=CC=C1 | C11H15ClS
